US09126956B2
1E: (2S,4R)-5-Biphenyl-4-yl-2-isobutyryloxymethyl-2-methyl-4-[(3H-[1,2,3]triazole-4-carbonyl)amino]pentanoic Acid
(2S,4R)-5-Biphenyl-4-yl-2-methyl-2-(tetrahydropyran-2-yloxymethyl)-4-[(1H-1,2,3-triazole-4-carbonyl)amino]pentanoic acid (126 mg, 255 μmol) was combined with 4 M HCl in dioxane (191 μL, 765 μmol) in MeCN (0.7 mL, 10 mmol). The mixture was then concentrated under reduced pressure and the residue was purified by reverse phase chromatography. DCM (1 mL, 20 mmol) and isobutyryl chloride (32.6 mg, 306 μmol) were added, followed by DIPEA (133 μL, 765 μmol). The resulting mixture was stirred for 10 minutes. The solvent was evaporated and the residue was dissolved in AcOH and purified by preparative HPLC to yield the title compound (5 mg). MS m/z [M+H]+ calc'd for C26H30N4O5, 479.22. found 479.

reactant | (2S,4R)-5-Biphenyl-4-yl-2-methyl-2-(tetrahydropyran-2-yloxymethyl)-4-[(1H-1,2,3-triazole-4-carbonyl)amino]pentanoic acid | 255 μmol, 126 mg | C1(=CC=C(C=C1)C[C@H](C[C@](C(=O)O)(COC1OCCCC1)C)NC(=O)C=1N=NNC1)C1=CC=CC=C1 | C27H32N4O5
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 765 μmol, 191 μL | O1CCOCC1 | C4H8O2
reactant | MeCN | 10 mmol, 0.7 mL | CC#N | C2H3N
reactant | DCM | 20 mmol, 1 mL | C(Cl)Cl | CH2Cl2
reactant | isobutyryl chloride | 306 μmol, 32.6 mg | C(C(C)C)(=O)Cl | C4H7ClO
reactant | DIPEA | 765 μmol, 133 μL | CCN(C(C)C)C(C)C | C8H19N
product | (2S,4R)-5-Biphenyl-4-yl-2-isobutyryloxymethyl-2-methyl-4-[(3H-[1,2,3]triazole-4-carbonyl)amino]pentanoic Acid | 5 mg | C1(=CC=C(C=C1)C[C@H](C[C@@](C(=O)O)(C)COC(C(C)C)=O)NC(=O)C=1NN=NC1)C1=CC=CC=C1 | C26H30N4O5
